US04642308
The procedure is similar to that described in Example 1, but starting with 4-methoxybenzoic acid (16.7 g), N,N'-carbonyldiimidazole (17.8 g) and 2-amino-7-(2,6-dimethylphenoxy)-1,8-naphthyridine (21.2 g). The reaction mixture is poured into water and extracted with methylene chloride. After concentration of the organic phases to dryness under reduced pressure (4 kPa), the solid residue (33 g) is dissolved in boiling acetone (170 cc). After 2 hours' cooling at 4° C., the crystallised solid is separated by filtration, washed with acetone (10 cc) and dried at 40° C. under reduced pressure (0.067 kPa). By recrystallisation of the solid produced (11.5 g; m.p. approximately 100° C.) in acetone (50 cc), N-[7-(2,6-dimethylphenoxy)-1,8-naphthyridin-2-yl]-4-methoxybenzamide (9.1 g) is produced, m.p. 174° C.

reactant | 4-methoxybenzoic acid | 16.7 g | COC1=CC=C(C(=O)O)C=C1 | C8H8O3
reactant | 2-amino-7-(2,6-dimethylphenoxy)-1,8-naphthyridine | 21.2 g | NC1=NC2=NC(=CC=C2C=C1)OC1=C(C=CC=C1C)C | C16H15N3O
solvent | water | O | H2O
product | N-[7-(2,6-dimethylphenoxy)-1,8-naphthyridin-2-yl]-4-methoxybenzamide | 9.1 g | CC1=C(OC2=CC=C3C=CC(=NC3=N2)NC(C2=CC=C(C=C2)OC)=O)C(=CC=C1)C | C24H21N3O3
